* NGSPICE file created from nmos_flat.ext - technology: sky130A

.subckt nmos_flat VPWR SOURCE DRAIN GATE VGND
X0 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=1.595e+13p pd=1.1638e+08u as=1.45e+13p ps=1.058e+08u w=5e+06u l=1e+06u
X1 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X2 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X3 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X4 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X5 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X6 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X7 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X8 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X9 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X10 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X11 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X12 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X13 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X14 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X15 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X16 SOURCE GATE DRAIN VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X17 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X18 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
X19 DRAIN GATE SOURCE VGND sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u
.ends

